US08012976B2
A suspension of ethyl 4-oxo-2-phenyl-3-(1-propyl-1H-imidazol-2-yl)-1,2,3,4-tetrahydroquinoline-5-carboxylate (770 mg, 1.9 mmol) and hydrazine monohydrate (6 mL, 85%) were added in methanol (10 mL) and stirred at 50° C. overnight. The mixture was filtered, and the white solid was washed with methanol and dried in vacuum to obtain 8-phenyl-9-(1-propyl-1H-imidazol-2-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (260 mg, yield 37%). 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 0.59-0.62 (t, J=7.4 Hz, 1H), 1.23-1.40 (m, 2H), 3.62-3.72 (m, 2H), 4.58-4.61 (d, J=11.2 Hz, 1H), 4.97-4.99 (d, J=11.2 Hz, 1H), 6.79 (s, 1H), 6.89 (s, 1H), 7.16-7.59 (m, 8H), 12.15 (s, 1H); LC-MS (ESI) m/z: 372 (M+1)+.

reactant | ethyl 4-oxo-2-phenyl-3-(1-propyl-1H-imidazol-2-yl)-1,2,3,4-tetrahydroquinoline-5-carboxylate | 1.9 mmol, 770 mg | O=C1C(C(NC=2C=CC=C(C12)C(=O)OCC)C1=CC=CC=C1)C=1N(C=CN1)CCC | C24H25N3O3
reactant | hydrazine monohydrate | 6 mL | O.NN
solvent | methanol | 10 mL | CO | CH4O
product | 8-phenyl-9-(1-propyl-1H-imidazol-2-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 260 mg, yield 37% | C1(=CC=CC=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C=1N(C=CN1)CCC | C22H21N5O
